US04616015
Potassium cyanate (0.516 g) was added to a solution of 6-[4-(3-aminopropylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.66 g), acetic acid (0.382 g) and methanol (10 ml) in water (20 ml), and the mixture was stirred for 60 hours at room temperature. The resulting precipitates were collected by filtration, washed with water and recrystallized from 80% aqueous ethanol to give 6-[4-(3-ureidopropylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.62 g).

reactant | Potassium cyanate | 0.516 g | [O-]C#N.[K+]
reactant | 6-[4-(3-aminopropylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.66 g | NCCCNC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C13H19N5O
reactant | acetic acid | 0.382 g | C(C)(=O)O | C2H4O2
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 6-[4-(3-ureidopropylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.62 g | N(C(=O)N)CCCNC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H20N6O2
